US05198449
1-[3-[(4-Chlorophenyl)sulfonyl]propyl]-N-(3,4-difluorophenyl)-α-(4-fluorophenyl)-4-piperidinemethanamine
Following the procedure of Example 2, the title compound is prepared from 1-chloro-4-[(3-chloropropyl)sulfonyl]benzene and N-(3,4-difluorophenyl)-α-(4-fluorophenyl)-4-piperidinemethanamine.

reactant | 1-chloro-4-[(3-chloropropyl)sulfonyl]benzene | ClC1=CC=C(C=C1)S(=O)(=O)CCCCl | C9H10Cl2O2S
reactant | N-(3,4-difluorophenyl)-α-(4-fluorophenyl)-4-piperidinemethanamine | FC=1C=C(C=CC1F)NC(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F3N2
product | 1-[3-[(4-Chlorophenyl)sulfonyl]propyl]-N-(3,4-difluorophenyl)-α-(4-fluorophenyl)-4-piperidinemethanamine | ClC1=CC=C(C=C1)S(=O)(=O)CCCN1CCC(CC1)C(NC1=CC(=C(C=C1)F)F)C1=CC=C(C=C1)F | C27H28ClF3N2O2S
